US08133882B2
To a 30 ml methanol solution of 1.5 g of {[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}acetonitrile were added 1.1 ml of triethylamine and 540 mg of hydroxylamine hydrochloride, followed by heating under reflux for 27 hours. The solvent was evaporated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography to obtain 850 mg of 2-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}-N′-hydroxyethanimidamide.

reactant | methanol | 30 ml | CO | CH4O
reactant | {[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}acetonitrile | 1.5 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)OCC#N)=O)F | C22H26FN3O2
reactant | hydroxylamine hydrochloride | 540 mg | Cl.NO
solvent | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
product | 2-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]oxy}-N′-hydroxyethanimidamide | 850 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)OCC(N)=NO)=O)F | C22H29FN4O3
